US07763728B2
2-(3-Methoxy-phenyl)-cyclopropanecarboxylic Acid
The crude 2-(3-methoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester is dissolved in 30 ml EtOH and 15 ml 1N NaOH. After stirring over night, the reaction mixture is acidified with 1N HCl and extracted with diethyl ether. After removal of the solvent 7.1 g of the 2-(3-methoxy-phenyl)-cyclopropanecarboxylic acid is obtained. This 2-(3-methoxy-phenyl)-cyclopropanecarboxylic acid is used without further purification.

reactant | 2-(3-methoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(C1)C1=CC(=CC=C1)OC | C13H16O3
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | NaOH | 1N, 15 ml | [OH-].[Na+]
product | 2-(3-Methoxy-phenyl)-cyclopropanecarboxylic Acid | COC=1C=C(C=CC1)C1C(C1)C(=O)O | C11H12O3
